US07544672B2
Step 2. N-[4-Chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide
A solution of N-[4-chloro-5-(3-hydroxy-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide (9.0 g, 19.7 mmol) and Et3N (2 mL) in DCM (50 mL) was treated with MsCl (15.3 mL, 19.7 mmol) at 0° C. for 20 min and evaporated to give a yellow solid, containg mostly the desired mesylate (10.7 g). An aliquot of this solid (106.8 mg, 0.2 mmol) was treated with diisobutylamine (25.9 mg, 24.8 μL) in DCM (2 mL) at 0° C. for 10 h, and then at 25° C. for 3 days. Evaporation and prepartive plate chromatography gave the title compound.

reactant | N-[4-chloro-5-(3-hydroxy-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide | 19.7 mmol, 9.0 g | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2C#CCO)CC2=NC=C(C(=C2C)OC)C | C23H26ClN5O3
reactant | MsCl | 19.7 mmol, 15.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | 10.7 g | S(C)(=O)(=O)[O-]
reactant | diisobutylamine | 24.8 μL, 25.9 mg | C(C(C)C)NCC(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 2 mL | CCN(CC)CC | C6H15N
product | N-[4-Chloro-5-(3-diisobutylamino-prop-1-ynyl)-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2C#CCN(CC(C)C)CC(C)C)CC2=NC=C(C(=C2C)OC)C | C31H43ClN6O2
